US09428511B2
Alternative procedure using 1M LiN(TMS)2 as base: A 1M THF solution of LiHMDS (19.62 ml, 19.62 mmol) was added dropwise to a solution of ethyl 1H-imidazole-2-carboxylate (2.5 g, 17.84 mmol) in DMF (119 ml) at 0° C. The reaction was stirred at 0° C. for 10 minutes. A DMF (119 ml) suspension of (aminooxy)diphenylphosphine oxide (4.99 g, 21.41 mmol) was added. After stirring for 10 minutes, the ice bath was removed, and stirring was continued at room temperature. After 3 hrs, the starting material was completely consumed. Water was added portion-wise to the reaction mixture until complete dissolution of the suspension. The clear solution was concentrated to dryness under reduced pressure. Ethyl acetate was added to the solid, forming a yellow suspension. The suspension was stirred for 15 minutes and filtered. The solid was washed with ethyl acetate and dichloromethane, successively. The collected organic wash was concentrated. The crude product was dissolved in 10% MeOH/DCM (10 ml) and was chromatographed on a prepacked silica gel column (Isco prep: 0-5% MeOH-DCM over 20 minutes. The product began eluting around 7 minutes (˜2% MeOH/DCM). The desired ethyl 1-amino-1H-imidazole-2-carboxylate (2.57 g, 16.56 mmol, 93% yield) was obtained as a white solid.

reactant | LiN(TMS)2 | 1M | [Li]N([Si](C)(C)C)[Si](C)(C)C
reactant | THF | 1M | C1CCOC1 | C4H8O
reactant | LiHMDS | 19.62 mmol, 19.62 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | ethyl 1H-imidazole-2-carboxylate | 17.84 mmol, 2.5 g | N1C(=NC=C1)C(=O)OCC | C6H8N2O2
reactant | (aminooxy)diphenylphosphine oxide | 21.41 mmol, 4.99 g | NOP(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C12H12NO2P
solvent | DMF | 119 ml | CN(C)C=O | C3H7NO
solvent | DMF | 119 ml | CN(C)C=O | C3H7NO
product | ethyl 1-amino-1H-imidazole-2-carboxylate | 16.56 mmol, 2.57 g, 93% yield | NN1C(=NC=C1)C(=O)OCC | C6H9N3O2
